US06562849B1
1-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]-2,6-dimethylphenyl)-3-[4-(trifluoromethyl)phenyl]urea (exemplification compound number 1-187)
A mixture of 5-[4-[6-(4-amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (288 mg), α,α,α-trifluoro-p-tolyl isocyanate (112 mg), triethylamine (121 mg) and anhydrous tetrahydrofuran (10 ml) was stirred at room temperature for 40 hours. The reaction mixture was concentrated and diluted with water. The precipitate was isolated by filtration and washed with water and ethyl acetate to afford the title compound (257 mg, mp 206-208° C.).

reactant | 5-[4-[6-(4-amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 288 mg | Cl.Cl.NC1=C(C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1C)C
reactant | α,α,α-trifluoro-p-tolyl isocyanate | 112 mg | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
reactant | triethylamine | 121 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-[2-[4-(2,4-Dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]-2,6-dimethylphenyl)-3-[4-(trifluoromethyl)phenyl]urea | 257 mg | O=C1SC(C(N1)=O)CC1=CC=C(OCC2=NC3=C(N2C)C=C(C=C3)OC3=CC(=C(C(=C3)C)NC(=O)NC3=CC=C(C=C3)C(F)(F)F)C)C=C1 | C35H30F3N5O5S
